US07932254B2
(1-Methyl-cyclohexyl)-[2-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone was prepared starting from (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone and 4-methyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[1,4]oxazine following general procedures as described in these Examples. MP 243-244° C., M+H=391.

reactant | (2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-(1-methyl-cyclohexyl)-methanone | BrC=1N=C2C(=NC1)NC=C2C(=O)C2(CCCCC2)C | C14H16BrN3O
reactant | 4-methyl-7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[1,4]oxazine | CN1CCOC2=C1C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C15H22BNO3
product | (1-Methyl-cyclohexyl)-[2-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone | CC1(CCCCC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC1=C(N(CCO1)C)C=C2 | C23H26N4O2
